US05126366
N-[3-(3-Aminophenoxy)propyl]-2,3-dihydro-7-hydroxy-8-methyl-1,4-benzodioxin-2-methanamine
2,3-Dihydro-7-hydroxy-8-methyl-1,4-benzodioxin-2-methanamine (0.70 g, 3.6 mmole), 3-(3-nitrophenoxy)propyl bromide (0.94 g, 3.6 mmole) and diisopropylethylamine (0.47 g, 3.6 mmole) were combined in 50 ml of DMF and heated at 80° C. for 24 hrs. under a nitrogen atmosphere. The solvent was then removed in vacuum and the residue dissolved in chloroform and washed with saturated aqueous sodium bicarbonate, dried over magnesium sulfate, filtered and concentrated in vacuum. The residue was column chromatographed on silica gel using first chloroform and then 2% methanol/chloroform as eluant. The product-containing fractions were combined and concentrated in vacuum to give a dark yellow oil. This was dissolved in methanol (100 ml) and 0.5 g of 10% palladium on carbon added, along with 5 ml of 4N isopropanolic HCl. The mixture was hydrogenated at 50 psi on a Parr apparatus overnight, filtered through celite, concentrated in vacuum. to an off-white solid and column chromatographed on silica gel with 5% methanol/chloroform (with 1 ml/liter aqueous ammonia added). The product-containing fractions were combined and evaporated in vacuum and recrystallized from isopropanol with addition of 4N HCl/IPA to give 0.32 g of title compound as a yellow solid, dihydrochloride, hydrate, isopropanol solvate, m.p. 156° C. (d).

reactant | 2,3-Dihydro-7-hydroxy-8-methyl-1,4-benzodioxin-2-methanamine | 3.6 mmole, 0.70 g | OC=1C=CC2=C(OC(CO2)CN)C1C | C10H13NO3
reactant | 3-(3-nitrophenoxy)propyl bromide | 3.6 mmole, 0.94 g | [N+](=O)([O-])C=1C=C(OCCCBr)C=CC1 | C9H10BrNO3
reactant | diisopropylethylamine | 3.6 mmole, 0.47 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 4N, 5 ml | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | N-[3-(3-Aminophenoxy)propyl]-2,3-dihydro-7-hydroxy-8-methyl-1,4-benzodioxin-2-methanamine | 0.32 g | NC=1C=C(OCCCNCC2COC3=C(O2)C(=C(C=C3)O)C)C=CC1 | C19H24N2O4
